Name:  ___           Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Weakness
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ woman with HTN who was
transferred to ___ from ___ with concern for a stroke.
Workup was negative for stroke so she is admitted to medicine 
for
ongoing evaluation of new-onset weakness.  

The patient was in her usual state of health until the evening 
of
___ when she began to feel weakness on her right side while
ambulating to her kitchen. She fell forward but was able to 
brace
herself so did not fall on the floor and had no head strike or
LOC. She subsequently felt a generalized feeling of "numbness"
and was worried about a stroke so she took two aspirin and 
called
EMS. While waiting for EMS she began to feel stiff and upon EMS
arrival she was unable to move her body, though she was able to
stand up. At ___, her SBP was 180s, although she had not
taken her BP meds for ___ days. She underwent NCHCT and CTA head
and neck which were both unremarkable. She was transferred to
___ for further neurology evaluation.  

In the ED the patient has been afebrile, HRs ___, BPs
120s-150s/60s-90s, breathing 99% RA. Her exam was notable for 
___
strength throughout with ___ stroke scale 6. Labs, including 
CBC,
TSH, CMP, and tox screen were unremarkable.   

Neurology was consulted and felt that the patient's presentation
was functional as her individual muscle strength was normal on
testing. The neurology team's assessment was that the patient 
has
a conversion disorder with a possible stressor being her son who
is ill and in the hospital.  

Psychiatry was also consulted and recommended that the patient
receive full medical workup for weakness prior to labeling the
patient with a psychiatric condition and the decision was made 
to
admit the patient to medicine for workup of her subjective
weakness. 

On arrival to the floor, patient reports that she continues to
feel better. She notes that prior to coming to the hospital she
was weak in her bilateral upper and lower extremities but she 
now
has full strength in her left side and residual weakness in her
right side, although it is improving. She denies any pain,
fevers, chills, weight loss, joint pains, rashes, leg swelling,
or recent illnesses. No cough, chest pain, or dyspnea.
 
Past Medical History:
Hypertension 
Hyperlipidemia
 
Social History:
___
Family History:
Patient's mother has advanced melanoma and father died of heart
attack.  Patient's daughter passed at 28 of blood clot in lung. 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
VS: Reviewed 
GENERAL: NAD
HEENT: AT/NC, anicteric sclera, MMM
NECK: supple, no LAD
CV: RRR, S1/S2, no murmurs, gallops, or rubs
PULM: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles
GI: abdomen soft, nondistended, nontender in all quadrants, no
rebound/guarding, no hepatosplenomegaly
EXTREMITIES: no cyanosis, clubbing, or edema
PULSES: 2+ radial pulses bilaterally
NEURO: Alert, ___ strength in left upper and lower extremities,
Patient does not voluntarily move RU/RL extremities but will
withdrawal to painful stimuli, Babinski downgoing b/l, 2+
reflexes in knees and ankles. face symmetric
DERM: warm and well perfused, no excoriations or lesions, no
rashes

DISCHARGE PHYSICAL EXAM:
T 97.6 BP 126/87 HR 76 RR 16 O2 sat 98 RA 
GENERAL: NAD, resting comfortably in chair
HEENT: anicteric sclera, EOMI, PERRLA MMM
NECK: supple, no LAD
CV: RRR, S1/S2, no murmurs, gallops, or rubs
PULM: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles
GI: abdomen soft, nondistended, nontender in all quadrants, no
rebound/guarding, no hepatosplenomegaly
EXTREMITIES: no cyanosis, clubbing, or edema
PULSES: 2+ radial pulses bilaterally
NEURO: Alert, CNII-XII intact. ___ strength in left upper and
lower extremities in all extensors and flexors. Right upper
extremity ___, RLE ___. Mild expressive aphasia lasting 10
seconds with complete resolution
DERM: warm and well perfused, no excoriations or lesions, no
rashes
 
Pertinent Results:
ADMISSION LABS:

___ 02:40AM BLOOD WBC-6.1 RBC-3.87* Hgb-11.8 Hct-35.0 
MCV-90 MCH-30.5 MCHC-33.7 RDW-13.2 RDWSD-43.2 Plt ___
___ 04:15AM BLOOD Glucose-127* UreaN-17 Creat-1.0 Na-141 
K-4.0 Cl-102 HCO3-26 AnGap-13
___ 02:40AM BLOOD ALT-16 AST-38 CK(CPK)-176 AlkPhos-87 
TotBili-0.3
___ 04:15AM BLOOD Calcium-10.0 Phos-3.5 Mg-2.2

INTERVAL LABS:

___ 04:10AM BLOOD %HbA1c-6.4* eAG-137*
___ 04:15AM BLOOD Triglyc-77 HDL-66 CHOL/HD-3.2 
LDLcalc-130* LDLmeas-136*
___ 02:40AM BLOOD TSH-3.6
___ 02:40AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 02:43AM BLOOD Glucose-118* Na-138 K-4.6 Cl-105 
calHCO3-26

DISCHARGE LABS:

___ 04:15AM BLOOD WBC-7.0 RBC-4.23 Hgb-12.6 Hct-39.1 MCV-92 
MCH-29.8 MCHC-32.2 RDW-12.8 RDWSD-42.9 Plt ___
___ 04:15AM BLOOD Glucose-125* UreaN-22* Creat-1.0 Na-142 
K-4.9 Cl-105 HCO3-24 AnGap-13
___ 04:15AM BLOOD ALT-15 AST-13 AlkPhos-109*
___ 04:15AM BLOOD Calcium-9.6 Phos-3.3 Mg-2.3

STUDIES:
___ Non con CT head:
1. No evidence of acute large territorial infarction.  Please 
note that MRI is 
more sensitive for the detection of acute infarct. 
2. Redemonstration of subacute left corona radiata infarct and 
chronic right 
basal ganglia infarct. 

___ TEE:
CONCLUSION:
There is no spontaneous echo contrast or thrombus in the body of 
the left atrium/left atrial appendage. The
left atrial appendage ejection velocity is normal. No 
spontaneous echo contrast or thrombus is seen in the
body of the right atrium/right atrial appendage. There is no 
evidence of an atrial septal defect or patent
foramen ovale by 2D/color Doppler or agitated saline at rest and 
with maneuvers. Overall left ventricular
systolic function is normal. The right ventricle has normal free 
wall motion. There are no aortic arch atheroma
with no atheroma in the descending aorta. The aortic valve 
leaflets (3) appear structurally normal. No masses
or vegetations are seen on the aortic valve. No abscess is seen. 
There is no aortic regurgitation. The mitral
valve leaflets appear structurally normal with no mitral valve 
prolapse. No masses or vegetations are seen on
the mitral valve. No abscess is seen. There is physiologic 
mitral regurgitation. The tricuspid valve leaflets
appear structurally normal. No mass/vegetation are seen on the 
tricuspid valve. No abscess is seen. There is
physiologic tricuspid regurgitation.
IMPRESSION: No spontaneous echo contrast or thrombus in the left 
atrium/left atrial appendage/right
atrium/right atrial appendage. No atrial septal defect or patent 
forament ovale identified by 2D, Doppler or
intravenous saline with maneuvers.

___ TTE:
CONCLUSION:
The left atrial volume index is normal. There is mild symmetric 
left ventricular hypertrophy with a normal
cavity size. There is suboptimal image quality to assess 
regional left ventricular function. Overall left
ventricular systolic function is hyperdynamic. The visually 
estimated left ventricular ejection fraction is 75%.
There is no resting left ventricular outflow tract gradient. 
There is Grade I diastolic dysfunction. Normal right
ventricular cavity size with normal free wall motion. The aortic 
sinus diameter is normal for gender with
normal ascending aorta diameter for gender. The aortic arch 
diameter is normal. The aortic valve leaflets (3)
appear structurally normal. There is no aortic valve stenosis. 
There is no aortic regurgitation. The mitral valve
leaflets appear structurally normal with no mitral valve 
prolapse. There is trivial mitral regurgitation. The
tricuspid valve leaflets appear structurally normal. There is 
physiologic tricuspid regurgitation. The estimated
pulmonary artery systolic pressure is normal. There is no 
pericardial effusion.
IMPRESSION: Cannot exclude cardiac source of embolus on the 
basis of this suboptimal study.
RECOMMEND: If clinically indicated, a TEE with saline contrast 
is suggested for further evaluation of ? cardiac
source of embolus

___ Brain MRI:
FINDINGS:  
  
There is an area of restricted diffusion in the left corona 
radiata with 
associated T2/FLAIR signal hyperintensity, consistent with acute 
to subacute 
infarct (04:18).  There is a small chronic lacunar infarct in 
the right basal 
ganglia with surrounding gliosis (10:13).  There is no evidence 
of 
intracranial hemorrhage.  The ventricles and sulci are normal in 
caliber and 
configuration.  The major intracranial flow voids are preserved. 

  
There is no abnormal fluid signal in the visualized paranasal 
sinuses and 
mastoid air cells.  The orbits are unremarkable. 
  
IMPRESSION: 
  
1. Acute to subacute infarct in the left corona radiata.  No 
intracranial 
hemorrhage. 
2. Chronic lacunar infarct in the right basal ganglia. 
 
Brief Hospital Course:
SUMMARY:
========
Ms. ___ is a ___ woman with HTN who was 
transferred to ___ from ___ with concern for a stroke, 
transferred to medicine for evaluation of persistent weakness 
found to have acute to subacute L corona radiata stroke.

TRANSITIONAL ISSUES:
====================
[ ] Needs ___ of Hearts evaluation to evaluate for 
arrhythmogenic cause of stroke.
[ ] Needs ongoing diet and lifestyle counseling. Counsel on 
heart healthy diet.
[ ] Weight loss and reduction of salt intake for blood pressure 
counseling.
[ ] ___ have episodes of transcortical aphasia from her known 
anterior choroidal infarct.

ACUTE ISSUES:
===============
# Left corona radiata CVA
Patient presented with right-sided weakness in her arms and 
legs. Initial CTA negative for stroke but MRI findings showing 
acute to subacute stroke in left corona radiata as well as 
chronic lacunar infarct in the R basal
ganglia. Etiology thought to be ___ small vessel disease based 
on location, patient's history of HTN and borderline DM and high 
cholesterol. She had extensive workup to evaluate etiology of 
stroke including TTE and TEE without thrombus or vegetation 
identified. CTA on admission did not show any significant 
carotid disease. She was maintained on tele and never had an 
arrythymia. Her HCTZ was discontinued in setting of stroke to 
allow for autoregulation. She had an episode of expressive 
aphasia, which per neuro may be transcortical aphasia from her 
known anterior choroidal infarct. Repeat head CT reassuring. She 
was started on aspirin 81mg and atorvastatin 80mg for her 
stroke. She was counseled on a healthy diet and lifestyle 
interventions to prevent another episode of stroke.

CHRONIC ISSUES:
===============
#HTN. HCTZ was held for autoregulation in setting of stroke and 
resumed at time of discharge.

#CODE: Full (presumed)
#CONTACT: 
Next of Kin: ___ 
 Relationship: DAUGHTER 
 Phone: ___ 
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Hydrochlorothiazide 25 mg PO DAILY 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  
2.  Atorvastatin 80 mg PO QPM  
3.  Hydrochlorothiazide 25 mg PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS: Left corona radiate stroke

SECONDARY DIAGNOSIS: pre-diabetes, hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear ___,

You came to ___ because of weakness. You were found to have a 
stroke in your brain. Please see more details listed below about 
what happened while you were in the hospital and your 
instructions for what to do after leaving the hospital.  

It was a pleasure participating in your care. We wish you the 
best! 
 
Sincerely,  
Your ___ Care Team 
 
WHAT WAS DONE WHILE YOU WERE IN THE HOSPITAL:  
- You had an MRI that showed you had a stroke in your brain. 
This is why you were feeling weakness on the right side of your 
body.
- You were started on new medicines to prevent you from having 
another stroke.
- You were evaluated by neurology for your stroke.
- You had an evaluation to determine the cause of your stroke, 
including an ultrasound of the heart, a brain MRI, and a CT scan 
of your blood vessels in your brain. So far, we have not 
identified the reason you experienced the stroke so it is 
important for you to obtain a ___ of Hearts" study when you 
leave the hospital.
- You improved considerably and were ready to leave the hospital 
 

WHAT SHOULD YOU DO WHEN YOU LEAVE THE HOSPITAL:  
- Please follow up with your primary care doctor and other 
health care providers (see below)  
- Please obtain ___ of Hearts Monitor.
- Please take all of your medications as prescribed (see below). 
 
- Seek medical attention if you have worsening weakness, loss of 
bowel or bladder control, chest pain, shortness of breath or 
other symptoms of concern.  

 
Followup Instructions:
___